US07772221B2
Step DO (1): (S)-2-((S)-N,2-Dimethylhexanamido)pent-4-enoic acid (26.5 mg, 0.11 mmoles, diastereomer A from Preparation D) and (2R,3S)-1-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-3-amino-4-(3,5-dichloro-phenyl)butan-2-ol (47 mg, from Preparation BG) were coupled by a procedure analogous to Step DL (1) to afford 29.5 mg of (S)-N-((S)-1-((2S,3R)-4-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-1-(3,5-dichloro-phenyl)-3-hydroxybutan-2-ylamino)-1-oxopent-4-en-2-yl)-N,2-dimethylhexan-amide as a clear oil. LC-MS Rt 2.25 min (method A), (M+H)+=674.2, 676; 1H NMR (500 MHz, CDCl3) δ 7.30 (d, J=8.2, 1H) 7.18 (m, 1H) 7.09 (s, 1H) 7.06 (s, 1H) 6.94 (s, 1H) 6.84 (d, J=8.2, 1H) 6.37 (d, J=8.8, 1H) 5.95 (m, 1H) 5.58 (m, 1H) 5.30 (m, 1H) 5.18 (d, J=10.3, 1H) 5.10-4.97 (m, 3H) 4.77 (m, 1H) 4.18-4.05 (m, 3H) 3.81 (s, 1H) 3.80 (s, 3H) 3.46 (m, 1H) 3.13 (d of d, J=15, 2, 3.1, 1H) 3.01 (d of d, J=14.6, 3.6, 1H) 2.87 (s, 1H) 2.86-2.78 (m, 2H) 2.74-2.45 (m, 7H) 2.42-2.32 (m, 1H) 1.93 (m, 1H) 1.65-1.45 (m, 1H) 1.37-1.13 (m, 6H) 1.02 (d, J=7.0, 2H) 0.95 (d, J=7.0, 1H) 0.87 (m, 4H).

reactant | (S)-2-((S)-N,2-Dimethylhexanamido)pent-4-enoic acid | CN(C([C@H](CCCC)C)=O)[C@H](C(=O)O)CC=C | C13H23NO3
reactant | (2R,3S)-1-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-3-amino-4-(3,5-dichloro-phenyl)butan-2-ol | 47 mg | C(C=C)O[C@@H]1C[C@@H](C2=CC(=CC=C12)OC)NC[C@H]([C@H](CC1=CC(=CC(=C1)Cl)Cl)N)O | C23H28Cl2N2O3
product | (S)-N-((S)-1-((2S,3R)-4-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-1-(3,5-dichloro-phenyl)-3-hydroxybutan-2-ylamino)-1-oxopent-4-en-2-yl)-N,2-dimethylhexan-amide | 29.5 mg | C(C=C)O[C@@H]1C[C@@H](C2=CC(=CC=C12)OC)NC[C@H]([C@H](CC1=CC(=CC(=C1)Cl)Cl)NC([C@H](CC=C)N(C([C@H](CCCC)C)=O)C)=O)O | C36H49Cl2N3O5
